US07276567B2
1-(1H-Inden-2-yl)-1H-benzimidazole
In 100 ml Erlenmeyer flask a mixture of 3.20 g (20.0 mmol) of 1H-inden-2-ylboronic acid, 1.18 g (10.0 mmol) of benzimidazole, 0.93 g (2.00 mmol) of [(TMEDA)CuOH]2Cl2, and 40 ml of dichloromethane was stirred for 20 hours (in air). The resulted mixture was passed through short column with Silica Gel 60 (40-63 μm, d 40 mm, l 20 mm). This column was additionally washed by 500 ml of dichloromethane. The combined elute was evaporated to dryness. The crude product was purified using medium-pressure chromatography on Silica Gel 60 (40-63 μm, d 40 mm, l 350 mm; eluent: hexanes/dichloromethane=1/1). Yield 530 mg (23%) of white solid.

reactant | 1H-inden-2-ylboronic acid | 20.0 mmol, 3.20 g | C1C(=CC2=CC=CC=C12)B(O)O | C9H9BO2
reactant | benzimidazole | 10.0 mmol, 1.18 g | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(1H-Inden-2-yl)-1H-benzimidazole | C1C(=CC2=CC=CC=C12)N1C=NC2=C1C=CC=C2 | C16H12N2
